US04661438
5-Methoxy-2-methyl-3H-benzotellurazolium Chloride
1,1,1-Trichloro-6-methoxy-3-methyl-2,1,4-benzoxatellurazinium, inner salt (Example 7) (40 g=0.1 mole) was suspended in methanol (400 ml), and a solution of sodium hydroxide (8.0 g=0.2 mole) in water (75 ml) was added. This formed a clear solution which was placed into a vessel fitted with a stirrer, a nitrogen inlet, and a condenser. Under nitrogen, sodium borohydride (10.6 g, 0.28 mole) was added in small increments until the solution no longer turned red or orange with further additions, eventually turning colorless. Partway into the reduction, the mixture solidified, but liquified again as the reduction progressed. To the suspension, which had been cooled to ≃10° C., was then added concentrated hydrochloric acid (100 ml) in one portion. The precipitate was filtered after 15 minutes (yield 42 g dark solid), and the filtrate was chilled for a second crop of 12 g solids. The first crop was recrystallized from 700 ml of hot water containing a little hydrochloric acid. The recovery was 16.1 g of almost white needles. The second crop also contained sodium chloride. It was recrystallized from 125 ml methanol, also containing a little hydrochloric acid, to give 3.6 g product. The combined yield of 19.7 g represented 63% of theory. For analysis, the material was crystallized once more from acidic methanol, 105° C. (sinter), 130°-135° C. (turned black), no clear melt >270° C.

reactant | 1,1,1-Trichloro-6-methoxy-3-methyl-2,1,4-benzoxatellurazinium | Cl[TeH]1(OC(=[NH+]C2=C1C=CC(=C2)OC)C)(Cl)Cl
reactant | sodium hydroxide | 0.2 mole, 8.0 g | [OH-].[Na+]
reactant | sodium borohydride | 0.28 mole, 10.6 g | [BH4-].[Na+]
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | methanol | 400 ml | CO | CH4O
solvent | water | 75 ml | O | H2O
product | 5-Methoxy-2-methyl-3H-benzotellurazolium Chloride | 3.6 g | [Cl-].COC=1C=CC2=C([NH2+]C([Te]2)C)C1 | InChI=1S/C9H11NOTe.ClH/c1-6-10-8-5-7(11-2)3-4-9(8)12-6;/h3-6,10H,1-2H3;1H
